US08119627B2
Piperidine-4-carboxylic acid [2-(4-trifluoromethoxy-phenoxy)-phenyl]-amide HVB01069 C19H19F3N2O3, MW 380.0
4-[2-(4-Trifluoromethoxy-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester (HVB01064, 0.3 g, 0.62 mmol) was dissolved in anhydrous DCM (7 ml), cooled to 0° C. and to this was added TFA (2.8 ml), and the reaction mixture was stirred under nitrogen for 1.5 h. The reaction mixture was poured onto solid potassium carbonate (6 g), and water (25 ml) added. Extracted with DCM and the organic layers dried over anhydrous magnesium sulphate, and evaporated in-vacuo, 0.21 g, 87%. Rf: 0.35 (DCM), 1HNMR: (CDCl3, 270 MHz) δ 1.64 (2H, m, CH2), 1.79 (2H, dd, J=2.7, 12.9 Hz, CH2), 2.32 (1H, m, CH), 2.61 (2H, td, J=2.7, 12.3 Hz, NCH2), 2.94 (1H, s, NH), 3.10 (2H, td, J=3.3, 12.6 Hz, NCH2), 6.79 (1H, dd, J=1.2, 8.1, ArHD), 6.95 (2H, m, ArHE), 6.95 (1H, m, ArHE), 7.08 (1H, td, J=1.5, 7.8 Hz, ArHc), 7.13 (2H, d, J=8.4 Hz, ArHF), 7.62 (1H, s, NH), 8.34 (1H, dd, J=1.2, 8.1 Hz, ArHA).

reactant | 4-[2-(4-Trifluoromethoxy-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.62 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)OC1=CC=C(C=C1)OC(F)(F)F)=O | C24H27F3N2O5
reactant | TFA | 2.8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 25 ml | O | H2O
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
product | Piperidine-4-carboxylic acid [2-(4-trifluoromethoxy-phenoxy)-phenyl]-amide | FC(OC1=CC=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=C1)(F)F | C19H19F3N2O3
